US08303944B2
(2S,4R)-tert-butyl 4-hydroxy-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate, 1-2c (1.5 g, 3.3 mmol) was added as a solid to a solution of bis(2-methoxyethyl)aminosulfur trifluoride (0.91 mL, 5.0 mmol) in 15 mL CH2Cl2 cooled to −78° C. Reaction was stirred at −78° C. for two hours and then warmed to room temperature and stirred for 2 hours. Reaction was poured into saturated sodium bicarbonate solution and stirred until bubbling ceased. Layers were separated and aqueous layer washed one time with CH2Cl2. Combined organics were washed with brine, dried (MgSO4), filtered, and concentrated to give a brown oil. The oil was chromatographed on silica gel with 5% MeOH/CH2Cl2 to yield 4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidin-2-yl)-1H-imidazol-5-yl)phenylboronic acid as a tan solid (0.46 g, 37%).

reactant | (2S,4R)-tert-butyl 4-hydroxy-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O5
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 5.0 mmol, 0.91 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidin-2-yl)-1H-imidazol-5-yl)phenylboronic acid | 0.46 g, 37% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)C=1NC(=CN1)C1=CC=C(C=C1)B(O)O | C18H23BFN3O4
